US05411942
BocGlyValOBzl:
44 g BocGlyOH (0.25 moles) is dissolved in 250 ml DMF, together with 29 g HOSu. After cooling to -20° C. 52 g DCC dissolved in 250 ml DMF is added. After 4 hours stirring at room temperature 95 g ValOBzl, pTos is added together with 35 ml TEA. After stirring overnight at room temperature, DCU is filtered off, DMF removed and the resulting oil taken up in EtAc and washed with sat. NaCl, sat. NaHCO, and 10% citric acid. The EtAc is dried with Na2SO4, removed by vacuum evaporation and the resulting crystalline mass dried in a desiccator. Yield: 59 g (65%).

reactant | BocGlyOH | 0.25 moles, 44 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | HOSu | 29 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ValOBzl | 95 g | N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C12H17NO2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | BocGlyValOBzl | N(CC(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H28N2O5
